US06426345B1
A mixture of 3-nitrophenylhydrazine hydrochloride (8.77 g) and 1,3,5-triazine (2.50 g) in ethanol (40 ml) was stirred under reflux for 4 hours. Then the mixture was poured into aqueous sodium bicarbonate and extracted with ethyl acetate twice. The combined organic phase was washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated. The residue was chromatographed on silica gel column (hexane-ethyl acetate, 3:7) to give 1-(3-nitrophenyl)-1H-1,2,4-triazole (2.89 g) as a solid.

reactant | 3-nitrophenylhydrazine hydrochloride | 8.77 g | Cl.[N+](=O)([O-])C=1C=C(C=CC1)NN
reactant | 1,3,5-triazine | 2.50 g | N1=CN=CN=C1 | C3H3N3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-(3-nitrophenyl)-1H-1,2,4-triazole | 2.89 g | [N+](=O)([O-])C=1C=C(C=CC1)N1N=CN=C1 | C8H6N4O2
